US04797492
5-Pentafluoroethyl-4-phenyl-3-aminoisoxazole
The title compouhd was obtained according to the same procedure as described in Example 32 except that phenylacetoamide oxime (1.50 g, 0.0100 mole) and t-butyl pentafluoropropionate (6.66 g, 0.0300 mole) were used.

reactant | phenylacetoamide oxime | 0.0100 mole, 1.50 g | C1(=CC=CC=C1)CC(N)=NO | C8H10N2O
reactant | t-butyl pentafluoropropionate | 0.0300 mole, 6.66 g | FC(C(C(=O)OC(C)(C)C)(F)F)(F)F | C7H9F5O2
product | 5-Pentafluoroethyl-4-phenyl-3-aminoisoxazole | FC(C(F)(F)F)(C1=C(C(=NO1)N)C1=CC=CC=C1)F | C11H7F5N2O
